US05958910
A solution of 1.5 g of 4-methyl-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide in 150 ml of methanol and 70 ml of ethyl acetate was hydrogenated at room temperature after the addition of 0.15 g of palladium on active charcoal (10%). The catalyst was filtered off and the filtrate was concentrated. Crystallization from ethyl acetate/hexane (1:1) yielded 1.1 g of N-[4-(3-amino-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide as a colorless solid.

reactant | 4-methyl-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide | 1.5 g | CC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H13N3O4S2
reactant | charcoal | C | CH4
solvent | methanol | 150 ml | CO | CH4O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 0.15 g | [Pd] | Pd
product | N-[4-(3-amino-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 1.1 g | NC=1C=C(C=CC1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C16H15N3O2S2
